*Constant
.subckt constant out
E1 out 0 value={k}
.ends constant

*Gain
.subckt Gain in out
E1 out 0 value={K*v(in)}
.ends Gain

*Integral
.subckt integral in out
B1 out 0 V=I(L1)
R1 N002 N001 1n
L1 N002 0 1
B2 N001 0 V=V(in)
.ends integral

*PI Controller
.subckt PI_ctrl in out
XU1 in N002 Gain K={Ki} Ki={Ki}
XU3 N002 N003 integral
XU2 in N001 Gain K={Kp} Kp = {Kp}
XU4 N001 N003 out Adder2
.ends PI_ctrl

*PI Controller_2
.subckt PI_ctrl_2 in out
XU1 in prop Gain A={k}
XU2 in mid Gain A={1/tau}
XU3 mid integ idt ic=0
XU4 prop integ out Adder2
Rin in 0 10Meg
.ends PI_ctrl_2

*ABC to DQ
.subckt abc_to_dq a b c theta D Q
B1 alpha 0 V=(2/3)*V(a)-(1/3)*V(b)-(1/3)*V(c)
B2 beta 0 V=(sqrt(3)/3)*V(b)-(sqrt(3)/3)*V(c)
B3 D 0 V=cos(V(theta))*V(alpha)+sin(V(theta))*V(beta)
B4 Q 0 V=cos(V(theta))*V(beta)-sin(V(theta))*V(alpha)
.ends abc_to_dq

*DQ to ABC
.subckt dq_to_abc d q theta a b c
B1 alpha 0 V=(cos(V(theta))*V(d))-(sin(V(theta))*V(q))
B2 beta 0 V=(sin(V(theta))*V(d))+(cos(V(theta))*V(q))
B3 a 0 V=V(alpha)+V(zero)
B4 b 0 V=(-1/2)*V(alpha)+(sqrt(3)/2)*V(beta)+V(zero)
V1 zero 0 1
B5 c 0 V=(-1/2)*V(alpha)-(sqrt(3)/2)*V(beta)+V(zero)
.ends dq_to_abc

*3Phase PLL
.subckt 3P_PLL a b c theta
B1 alpha 0 V=(2/3)*V(a)-(1/3)*V(b)-(1/3)*V(c)
B2 beta 0 V=(sqrt(3)/3)*V(b)-(sqrt(3)/3)*V(c)
B3 theta 0 V=atan2(V(beta),V(alpha))
.ends 3P_PLL

*Clarke
.subckt clarke a b c alpha beta zero
B1 alpha 0 V=(2/3)*V(a)-(1/3)*V(b)-(1/3)*V(c)
B2 beta 0 V=(1/3)*sqrt(3)*V(b)-(1/3)*sqrt(3)*V(c)
B3 zero 0 V=(1/3)*(V(a)+V(b)+V(c))
.ends clarke

*alphabeta to q
.subckt ABtoQ alpha beta zero q theta
B2 q 0 V=-1*V(alpha)*sin(V(theta))+V(beta)*cos(V(theta))+0*V(zero)
.ends ABtoQ

*PLL_baru
.subckt PLL_baru a b c theta
XU2 N001 N009 N004 Sub2
XU3 N004 N005 Gain A=0.1
XU4 N004 N010 Gain A=50000
XU5 N010 N011 integral
XU6 N005 N011 N006 Adder2
XU7 N002 N006 N003 Adder2
XU8 N003 theta integral
V1 N002 0 50
V2 N001 0 0
XU1 N007 N008 N012 theta N009 ABtoQ
XU9 a b c N007 N008 N012 clarke
.ends PLL_baru
